US09359338B2
Step 4: Synthesis of N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide
Add tert-butyl N-(cyclopropanecarbonyl)-N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]carbamate (350 mg, 0.84 mmol) in DCM (10 mL), add trifluoroacetic acid (2 mL). Stir the reaction at room temperature for 2 hrs. Concentrate to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:3) affords the title compound (260 mg, 98%). MS: (M+1): 315.

reactant | tert-butyl N-(cyclopropanecarbonyl)-N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]carbamate | 0.84 mmol, 350 mg | C1(CC1)C(=O)N(C(OC(C)(C)C)=O)C1=NC=CC(=C1)OC1=NC=C(C=C1C)[N+](=O)[O-] | C20H22N4O6
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide | 260 mg, 98% | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1=CC(=NC=C1)NC(=O)C1CC1 | C15H14N4O4
